US04963530
A solution of N-morpholinocarbonyl-L-phenylalanine benzyl ester (1.43 g) in methanol (20 ml) was hydrogenated over 10% palladium on carbon (150 mg) at 3 atmospheric pressure of hydrogen for 1 hour. The solution was filtered and concentrated in vacuo to give N-morpholinocarbonyl-L-phenylalanine (1.02 g) as an amorphous powder.

reactant | N-morpholinocarbonyl-L-phenylalanine benzyl ester | 1.43 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N1CCOCC1)CC1=CC=CC=C1)=O | C21H24N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | N-morpholinocarbonyl-L-phenylalanine | 1.02 g | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H18N2O4
